US08604034B2
Ethyl 1-[2-(4-methoxyphenyl)-2-oxoethyl]-4-nitro-1H-pyrrole-2-carboxylate (610 mg, 1.8 mmol) was mixed with 1,4-dioxane (7 mL) and ethylene-1,2-diamine (1.7 mL) and the mixture heat at 105° C. After 24 hours the reaction was complete (monitored by LCMS). The reaction was concentrated in vacuo and the resultant residue purified by flash chromatography (Biotage SP4, gradient 0-10% MeOH in EtOAc) to give 10a-(4-methoxyphenyl)-7-nitro-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (200 mg, yield 34%). ESI-MI m/z [M+H]+ 328.9.

reactant | Ethyl 1-[2-(4-methoxyphenyl)-2-oxoethyl]-4-nitro-1H-pyrrole-2-carboxylate | 1.8 mmol, 610 mg | COC1=CC=C(C=C1)C(CN1C(=CC(=C1)[N+](=O)[O-])C(=O)OCC)=O | C16H16N2O6
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 10a-(4-methoxyphenyl)-7-nitro-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 200 mg, yield 34% | COC1=CC=C(C=C1)C12N(C(C=3N(C1)C=C(C3)[N+](=O)[O-])=O)CCN2 | C16H16N4O4
